US08202863B2
To a solution of isonicotinamidine hydrochloride (1 g, 6.35 mmol) in anhydrous DMF (12 mL) is added sodium salt of 2-dimethoxymethyl-3-hydroxy-acrylic acid methyl ester (1.46 g, 7.36 mmol) and the reaction mixture is heated at 100° C. under nitrogen for 1 h. The reaction is cooled to room temperature and water (48 mL) is added. The precipitate is collected by filtration, washed with water and vacuum dried to afford 2-pyridin-4-yl-pyrimidine-5-carboxylic acid methyl ester (1.2 g, 88%). MS: 216 (M+H); 1H NMR (300 MHz, CD3OD): δ 4.00 (s, 3H), 8.44 (d, 2H), 8.73 (d, 2H), 9.38 (s, 2H).

reactant | isonicotinamidine hydrochloride | 6.35 mmol, 1 g | Cl.C(C1=CC=NC=C1)(=N)N
reactant | sodium | [Na] | Na
reactant | 2-dimethoxymethyl-3-hydroxy-acrylic acid methyl ester | 7.36 mmol, 1.46 g | COC(C(=CO)C(OC)OC)=O | C7H12O5
reactant | water | 48 mL | O | H2O
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 2-pyridin-4-yl-pyrimidine-5-carboxylic acid methyl ester | 1.2 g, 88% | COC(=O)C=1C=NC(=NC1)C1=CC=NC=C1 | C11H9N3O2
